US05179211
27 g (0.25 mol) of phenylhydrazine were initially introduced at 90° C. in a solution of 1.12 mol of sodium hydrogen sulphate in 420 ml of water. 30 g (0.263 mol) of heptan-2-one were metered in in the course of 30 min. This mixture was stirred for 7 h at 100° C. After cooling, the batch was neutralised and the organic phase was separated off and distilled. 2-Methyl-3-butylindole was obtained in a yield of 62%.

reactant | phenylhydrazine | 0.25 mol, 27 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium hydrogen sulphate | 1.12 mol | S(=O)(=O)(O)[O-].[Na+]
reactant | heptan-2-one | 0.263 mol, 30 g | CC(CCCCC)=O | C7H14O
solvent | water | 420 ml | O | H2O
product | 2-Methyl-3-butylindole | yield of 62% | CC=1NC2=CC=CC=C2C1CCCC | C13H17N
